US07842685B2
HBTU (0.80 g, 2.11 mmol) was added to a solution of di-isopropylethylamine (0.61 mL, 3.52 mmol), N,O-dimethylhydroxylamine hydrochloride (0.21 g, 2.11 mmol), and 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)benzo[d]thiazole-6-carboxylic acid (0.51 g, 1.41 mmol) in DMF (7 mL). The reaction mixture was stirred for 30 min, diluted with water, and extracted with EtOAc three times. The combined extracts were dried (MgSO4), concentrated under vacuum, and purified by silica gel chromatography to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-N-methoxy-N-methylbenzo[d]thiazole-6-carboxamide as an oil. MS (ESI) m/z: Calculated: 402.1; Observed: 403.1 (M++1).

reactant | HBTU | 2.11 mmol, 0.80 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | di-isopropylethylamine | 3.52 mmol, 0.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.11 mmol, 0.21 g | Cl.CNOC
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)benzo[d]thiazole-6-carboxylic acid | 1.41 mmol, 0.51 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=O)O)F | C18H14FNO4S
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-N-methoxy-N-methylbenzo[d]thiazole-6-carboxamide | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=O)N(C)OC)F | C20H19FN2O4S
